US07291635B2
A mixture of 1.4 g (7.7 mmol) of the title B compound, 3-amino-4-ethylamino-benzoic acid and 15 mL (104 mmol) of triethyl orthoacetate in 20 mL of EtOH is refluxed for 7 h. The reaction mixture is allowed to cool to RT and the precipitated solid is collected by filtration, washed with EtOH (2×), then with methyl-t-butylether (MTBE) and dried in vacuo to give 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid as a grey solid: mp>250° C.; 1H-NMR (DMSO-d6) δ 12.65 (s, 1H), 8.11 (s, 1H), 7.82 (dd, 1H), 7.59 (d, J=8.46, 1H), 4.26 (q, 2H), 2.57 (s, 3H), 1.30 (t, 3H); [M−1]−=203.

reactant | 3-amino-4-ethylamino-benzoic acid | NC=1C=C(C(=O)O)C=CC1NCC | C9H12N2O2
reactant | triethyl orthoacetate | 104 mmol, 15 mL | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid | C(C)N1C(=NC2=C1C=CC(=C2)C(=O)O)C | C11H12N2O2
